US09376444B2
1-(6-Bromo-3-chloro-2-fluorophenyl)prop-2-en-1-one was prepared using a procedure analogous to intermediate 1 except that 3-chloro-2,6-difluorobenzaldehyde was replaced with 6-bromo-3-chloro-2-fluorobenzaldehyde. 1H NMR (500 MHz, CDCl3) δ 7.33-7.41 (m, 2H), 6.64 (dd, J=17.6, 10.2 Hz, 1H), 6.25 (d, J=10.7 Hz, 1H), 6.07 (d, J=17.6 Hz, 1H).

reactant | 3-chloro-2,6-difluorobenzaldehyde | ClC=1C(=C(C=O)C(=CC1)F)F | C7H3ClF2O
reactant | 6-bromo-3-chloro-2-fluorobenzaldehyde | BrC1=CC=C(C(=C1C=O)F)Cl | C7H3BrClFO
product | 1-(6-Bromo-3-chloro-2-fluorophenyl)prop-2-en-1-one | BrC1=CC=C(C(=C1C(C=C)=O)F)Cl | C9H5BrClFO
